US09102674B2
Ethyl 7-hydroxy-2-methylquinoline-3-carboxylate (V), where R3 is —CH3, is obtained in two steps from commercially available or synthetically accessible 7-methoxy-2-methylquinoline-3-carboxylic acid. Demethylation of 7-methoxy-2-methylquinoline-3-carboxylic acid, employing methods previously described, for example, HBr in H2O, at temperatures ranging from 80° C. to about 100° C., preferably ° C. for a period of 0.5 h to 24 h, preferably about 2 h provides 7-hydroxy-2-methylquinoline-3-carboxylic acid. Subsequent esterification of 7-hydroxy-2-methylquinoline-3-carboxylic acid employing methods previously described, provides ethyl 7-hydroxy-2-methylquinoline-3-carboxylate (V), where R3 is —CH3.

reactant | 7-methoxy-2-methylquinoline-3-carboxylic acid | COC1=CC=C2C=C(C(=NC2=C1)C)C(=O)O | C12H11NO3
reactant | HBr | Br | BrH
solvent | H2O | O | H2O
product | 7-hydroxy-2-methylquinoline-3-carboxylic acid | OC1=CC=C2C=C(C(=NC2=C1)C)C(=O)O | C11H9NO3
